US06100419
A mixture of 2.3 g (20 mmole) of cyclohexanone oxime, 2.0 g (20 mmole) of isopropenyl acetate, 0.9 g (2 mmole) of di(η5 -pentamethylcyclopentadienyl)samarium [Cp*2Sm(THF)2 ], and 20 ml of toluene was stirred at room temperature for one hour, and the precipitated crystals were filtered. 3.1 g of acetyloxyiminocyclohexane (O-acetylcyclohexanone oxime) (yield: 100%) was obtained.

reactant | cyclohexanone oxime | 20 mmole, 2.3 g | C1(CCCCC1)=NO | C6H11NO
reactant | isopropenyl acetate | 20 mmole, 2.0 g | C(C)(=O)OC(=C)C | C5H8O2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | acetyloxyiminocyclohexane | 3.1 g, yield: 100% | C(C)(=O)ON=C1CCCCC1 | C8H13NO2
